US04170465
4.8 g of diketene were added to a mixture of 9 g of 1-amino-2-carbethoxy-cyclopentane and 90 ml of benzene and after stirring for 72 hours at 20° C., the mixture was evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with an 8-2 methylene chloride-acetone mixture to obtain 7.7 g of N-(2-carbethoxycyclopentyl)-acetylacetamide with a refractive index of ND22 =1.487. 6.3 g of the latter product and 0.25 g of p-toluene sulfonic acid were added to a mixture of 4.2 g of methyl orthoformate and 60 ml of methanol and after stirring the mixture at 20° C. for 16 hours, the mixture was evaporated to dryness under reduced pressure. The residue was added to toluene and 0.5 ml of quinoline and the mixture was heated at 145° C. for 1 hour while distilling a toluene-methanol azeotrope. The mixture was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 9-1 methylene chloride-acetone mixture gave 1.8 g of N-(2'-carbethoxycyclopentyl)-3-methoxy-crotonamide melting at 74° C. The RMN spectra showed it to be the E isomer.

reactant | diketene | 4.8 g | C=C1CC(=O)O1 | C4H4O2
reactant | 1-amino-2-carbethoxy-cyclopentane | 9 g | NC1C(CCC1)C(=O)OCC | C8H15NO2
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | N-(2-carbethoxycyclopentyl)-acetylacetamide | 7.7 g | C(=O)(OCC)C1C(CCC1)NC(CC(C)=O)=O | C12H19NO4
